US07589232B2
Step d) Formation of 2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carbonitrile
To a suspension of 5-cyano salicylic acid (60 g, 0.368 mol) in TFA (134 mL, 1.76 mol) and TFAA (45 mL, 0.32 mol) was added dry acetone (20 mL) and heated to reflux. After each 1 h interval was added 15 mL of dry acetone for 4 times and the reflux continued for 20 h. The reaction mixture was concentrated under vacuum and crude purified by flash column chromatography over silica gel (230-400 mesh) using CH2Cl2 as an eluent to give the title compound as a white solid (12 g, 15%). TLC: CH2Cl2 (100%), Rf: 0.5

reactant | 5-cyano salicylic acid | 0.368 mol, 60 g | C(#N)C1=CC=C(C(C(=O)O)=C1)O | C8H5NO3
reactant | TFA | 1.76 mol, 134 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFAA | 0.32 mol, 45 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 2,2-dimethyl-4-oxo-4H-1,3-benzodioxine-6-carbonitrile | 12 g, 15% | CC1(OC(C2=C(O1)C=CC(=C2)C#N)=O)C | C11H9NO3
